US08119617B2
At rt, to a solution of (2-Amino-phenyl)-phosphonic acid diethyl ester in EtOAc are added 10 equivaltents of pyridine followed by 1 equivalent of 4′-octyloxy-biphenyl-4-carbonylchloride (VAW132) and the mixture obtained is stirred for ca. 25 minutes. The mixture obtained is subjected to an aqueous work-up (NaHCO3/EtOAc), the organic phase obtained is dried, solvent is evaporated and the evaporation residue is subjected to column chromatography. {2-[(4′-Octyloxy-biphenyl-4-carbonyl)-amino]-phenyl}-phosphonic acid diethyl ester is obtained.

reactant | (2-Amino-phenyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C1=C(C=CC=C1)N | C10H16NO3P
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4′-octyloxy-biphenyl-4-carbonylchloride | 1 equivalent | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C21H25ClO2
reactant | NaHCO3 EtOAc | C(=O)(O)[O-].[Na+].CCOC(=O)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {2-[(4′-Octyloxy-biphenyl-4-carbonyl)-amino]-phenyl}-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC | C31H40NO5P
